US06384028B1
A mixture of N-[(R)-1-[3-(1-benzyloxycarbonyl-4-piperidyl)propanoyl]-3-piperidylcarbonyl]-2(S)-acetylamino-β-alanine (0.5 g) 1N HCl (0.94 ml) and 10% Pd—C (0.1 g) in tetrahydrofuran (5 ml) was hydrogenated at atmospheric pressure for 2 hours. After the catalyst was removed by filtration, the filtrate was concentrated in vacuo. The residue was resolved in water, and neutralized with saturated aqueous NaHCO3, desalted by using the resin of HP-20 eluting with isopropanol:H2O=(1:1), then freeze-dried to give N-[(R)-1-[3-(4-piperidyl)propanoyl]-3-piperidylcarbonyl]-2(S)-acetylamino-β-alanine (0.34 g, 91.0%).

reactant | N-[(R)-1-[3-(1-benzyloxycarbonyl-4-piperidyl)propanoyl]-3-piperidylcarbonyl]-2(S)-acetylamino-β-alanine | 1N, 0.94 ml, 0.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCC(=O)N1C[C@@H](CCC1)C(=O)NC[C@@H](C(=O)O)NC(C)=O | C27H38N4O7
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | Pd—C | 0.1 g | [Pd] | Pd
product | N-[(R)-1-[3-(4-piperidyl)propanoyl]-3-piperidylcarbonyl]-2(S)-acetylamino-β-alanine | 0.34 g, 91.0% | N1CCC(CC1)CCC(=O)N1C[C@@H](CCC1)C(=O)NC[C@@H](C(=O)O)NC(C)=O | C19H32N4O5
